US04983633
N-[4-[2-(Dimethylamino)ethoxy]benzyl]-5-dimethylaminosulfonyl 2-methoxybenzamide
To a cooled suspension of 3.20 g of 5-dimethylaminosulfonyl-2-methoxybenzoic acid in 10 ml of tetrahydrofuran were successively added dropwise 1.25 g of triethylamine and 1.34 g of ethyl chloroformate with stirring. The mixture was stirred at the same temperature for 30 minutes and then a solution of 2.00 g of 4-[2-(dimethylamino)ethoxy]benzylamine in 10 ml of tetrahydrofuran was added dropwise with stirring. The mixture was stirred at room temperature for 2 hours and the solvent was evaporated. Hydrochloric acid (10%) was added to the residue and the aqueous solution was washed with ethyl acetate. The aqueous layer was made alkaline with potassium carbonate and was extracted with ethyl acetate. The extract was dried and evaporated. The residue was washed with isopropyl ether to give 4.10 g of colorless crystals, which were recrystallized from a mixture of ethyl acetate and ether to give colorless needles, m.p. 99.5°-100.5° C.

reactant | 5-dimethylaminosulfonyl-2-methoxybenzoic acid | 3.20 g | CN(S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC)C | C10H13NO5S
reactant | triethylamine | 1.25 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.34 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-[2-(dimethylamino)ethoxy]benzylamine | 2.00 g | CN(CCOC1=CC=C(CN)C=C1)C | C11H18N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[4-[2-(Dimethylamino)ethoxy]benzyl]-5-dimethylaminosulfonyl 2-methoxybenzamide | 4.10 g | CN(CCOC1=CC=C(CNC(C2=C(C=CC(=C2)S(=O)(=O)N(C)C)OC)=O)C=C1)C | C21H29N3O5S
